US07438893B2
A. (−)-6-Amino-2-hydroxyhexanoic acid [Chem. Pharm. Bull. 1976, 24, 621]
An aqueous solution (100 ml) of sodium nitrite (25.9 g, 0.36 mole) was gradually added to a stirred solution of L-lysine hydrate (19.0 g, 0.097 mole) in 10% sulfuric acid (250 mL) at 45-50° C. over a 2 hr period. After addition was complete, the solution was stirred at 25° C. for 3 hr. Urea was added to the solution in order to decompose nitric acid formed in the reaction process and the aqueous solution was poured on to an ion exchange column (Amberlite IR-120, H+ form, 200 ml). After the column was thoroughly washed with water, it was eluted with aqueous ammonium hydroxide until the eluant became negative to ninhydrin test. Combined fractions were evaporated in vacuo, which gave a yellow oil, 7.5 grams.

reactant | sodium nitrite | 0.36 mole, 100 ml, 25.9 g | N(=O)[O-].[Na+]
reactant | L-lysine hydrate | 0.097 mole, 19.0 g | O.N[C@@H](CCCCN)C(=O)O
reactant | Urea | NC(=O)N | CH4N2O
reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 250 mL | S(O)(O)(=O)=O | H2O4S
product | (−)-6-Amino-2-hydroxyhexanoic acid | NCCCCC(C(=O)O)O | C6H13NO3
